datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[N:10]1CC[C@]23c4c5ccc(O)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1[C@H]5O.Cc1c(C)c([O:21][H:20])c(C)c(C)c1O>>C[N+:10]1([H:20])CC[C@]23c4c5ccc(O)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1[C@H]5O.Cc1c(C)c([O-:21])c(C)c(C)c1O 10=20;20,21=21",
"CC(C)[NH:10]CC(O)COc1ccccc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)[NH+:10](CC(O)COc1ccccc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[C@H]1[C@H]([NH3+])[C@@H]1[NH2+:21][H:20].C[N:10](CCO)CCCl>>C[C@H]1[C@H]([NH3+])[C@@H]1[NH2:21].C[N+:10](CCO)(CCCl)[H:20] 10=20;20,21=21",
"CC(C)[N:10](C(C)C)C(C)C.Cc1ccc[n+:21]([H:20])c1N>>CC(C)[N+:10](C(C)C)(C(C)C)[H:20].Cc1ccc[n:21]c1N 10=20;20,21=21",
"COC(=O)C[SH+]C(C)[O-:10].OC(CS)C[S:21][H:20]>>COC(=O)C[SH+]C(C)[O:10][H:20].OC(CS)C[S-:21] 10=20;20,21=21",
"COc1cccc(S(=O)(=O)[NH-:10])c1.C[NH+]1C[C@H](C(=O)[O:21][H:20])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]12>>COc1cccc(S(=O)(=O)[NH:10][H:20])c1.C[NH+]1C[C@H](C(=O)[O-:21])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]12 10=20;20,21=21",
"CS(C)=[O:10].OC(c1ccccc1)(c1ccccc1)c1cccc[n+:21]1[H:20]>>CS(C)=[O+:10][H:20].OC(c1ccccc1)(c1ccccc1)c1cccc[n:21]1 10=20;20,21=21",
"C1CCC2C(C1)CCC[NH:10]2.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C1CCC2C(C1)CCC[NH+:10]2[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C=C[C@H]1CN2CC[C@@H]1C[C@H]2[C@H](O)c1cc[n+:21]([H:20])c2ccccc12.COc1ccc(OC)c2c1n(C)c(CCl)[n:10]2>>C=C[C@H]1CN2CC[C@@H]1C[C@H]2[C@H](O)c1cc[n:21]c2ccccc12.COc1ccc(OC)c2c1n(C)c(CCl)[n+:10]2[H:20] 10=20;20,21=21",
"O=C(c1ccccc1)[O-:10].c1ccc2c([NH2+:21][H:20])n[nH]c2c1>>O=C(c1ccccc1)[O:10][H:20].c1ccc2c([NH2:21])n[nH]c2c1 10=20;20,21=21",
"NC(=O)C([NH3+])Cc1c[nH]c[n+:21]1[H:20].c1nc2nc([O-:10])[nH+]cc2[nH]1>>NC(=O)C([NH3+])Cc1c[nH]c[n:21]1.c1nc2nc([O:10][H:20])[nH+]cc2[nH]1 10=20;20,21=21",
"CC(C)(C)c1ccc([NH2:10])cc1.O=C(c1ccc2[nH]ccc2c1)[O:21][H:20]>>CC(C)(C)c1ccc([NH2+:10][H:20])cc1.O=C(c1ccc2[nH]ccc2c1)[O-:21] 10=20;20,21=21",
"O=C(/C=N/O)NCC[N:10]1CCOCC1.O=C(Oc1ccc([N+](=O)[O-])cc1)[C@@H]1CCCC[C@@H]1[NH2+:21][H:20]>>O=C(/C=N/O)NCC[N+:10]1([H:20])CCOCC1.O=C(Oc1ccc([N+](=O)[O-])cc1)[C@@H]1CCCC[C@@H]1[NH2:21] 10=20;20,21=21",
"C[N:10](C)c1ccccc1.Cc1ncnc2c1[nH]c[n+:21]2[H:20]>>C[N+:10](C)(c1ccccc1)[H:20].Cc1ncnc2c1[nH]c[n:21]2 10=20;20,21=21",
"CC(C)(C(=O)[O-])[NH+:21](C)[H:20].c1cc(N2CCCC2)c2c([N:10]3CCCC3)cccc2c1>>CC(C)(C(=O)[O-])[NH:21]C.c1cc(N2CCCC2)c2c([N+:10]3([H:20])CCCC3)cccc2c1 10=20;20,21=21",
"C=CC(=O)OCC[N+:21](C)(C)[H:20].Cc1ccccc1C(c1ccccc1C)=[N:10]CC[NH+](C)C>>C=CC(=O)OCC[N:21](C)C.Cc1ccccc1C(c1ccccc1C)=[N+:10](CC[NH+](C)C)[H:20] 10=20;20,21=21",
"CCC(C)(C)[NH:10]C1CCCCC1.Cc1cccc(C(=O)[O-])[n+:21]1[H:20]>>CCC(C)(C)[NH+:10](C1CCCCC1)[H:20].Cc1cccc(C(=O)[O-])[n:21]1 10=20;20,21=21",
"CC(C)(CN)[NH2:10].NC(=O)C[C@H](NC(=O)[C@@H](N)CS)C(=O)[O:21][H:20]>>CC(C)(CN)[NH2+:10][H:20].NC(=O)C[C@H](NC(=O)[C@@H](N)CS)C(=O)[O-:21] 10=20;20,21=21",
"C=Cc1c2[nH]c(c1C)C=C1[NH+]=C(C(CC(=O)OC)=C3N/C(=C\C4=[N+:21](\[H:20])C(=C2)C(C)=C4CC)C(C)=C3C(=O)NCC)[C@@H](CCC(=O)OC)[C@@H]1C.OC[C@@H]1O[C@H](n2cnc3c2ncn2cc[n:10]c32)[C@@H](O)[C@H]1O>>C=Cc1c2[nH]c(c1C)C=C1[NH+]=C(C(CC(=O)OC)=C3N/C(=C\C4=[N:21]C(=C2)C(C)=C4CC)C(C)=C3C(=O)NCC)[C@@H](CCC(=O)OC)[C@@H]1C.OC[C@@H]1O[C@H](n2cnc3c2ncn2cc[n+:10]([H:20])c32)[C@@H](O)[C@H]1O 10=20;20,21=21",
"C1CCC(P(C2CCCCC2)(C2CCCCC2)=[O:10])CC1.O=C1C=C(O)c2ccc([O:21][H:20])cc2O1>>C1CCC(P(C2CCCCC2)(C2CCCCC2)=[O+:10][H:20])CC1.O=C1C=C(O)c2ccc([O-:21])cc2O1 10=20;20,21=21",
"COc1ccc(C[NH2+:21][H:20])cc1.Cc1cc(O)n(-c2nc([O-])cc(C)[n:10]2)n1>>COc1ccc(C[NH2:21])cc1.Cc1cc(O)n(-c2nc([O-])cc(C)[n+:10]2[H:20])n1 10=20;20,21=21",
"CC[NH+:21](C[Si](C)(C)C)[H:20].Cc1ccc(C)c([O-:10])c1>>CC[NH:21]C[Si](C)(C)C.Cc1ccc(C)c([O:10][H:20])c1 10=20;20,21=21",
"Clc1ncnc2nc[n:21]([H:20])c12.c1c[nH+]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n:10]2)[nH]1>>Clc1ncnc2nc[n-:21]c12.c1c[nH+]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n+:10]2[H:20])[nH]1 10=20;20,21=21",
"Nc1ccc(-c2ccc(/N=C/c3ccccc3[O-:10])cc2)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Nc1ccc(-c2ccc(/N=C/c3ccccc3[O:10][H:20])cc2)cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[NH+]1C[C@@H](C(=O)[O:21][H:20])C=C2c3cccc4[nH]cc(c34)C[C@@H]21.NC(=O)CN(CCN(CC(N)=O)Cc1ccccc1[O-:10])Cc1ccccc1O>>C[NH+]1C[C@@H](C(=O)[O-:21])C=C2c3cccc4[nH]cc(c34)C[C@@H]21.NC(=O)CN(CCN(CC(N)=O)Cc1ccccc1[O:10][H:20])Cc1ccccc1O 10=20;20,21=21",
"CC(C)(O)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])C=C1>>CC(C)(O)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)C=C1 10=20;20,21=21",
"CC(=O)/C(=N\[O-:10])C(C)C.C[N+:21](C)(CC(=O)[O-])[H:20]>>CC(=O)/C(=N\[O:10][H:20])C(C)C.C[N:21](C)CC(=O)[O-] 10=20;20,21=21",
"[H:20][NH+:21]1CCCCC1.C[N+]1=CC=C(C=C1)[CH-:10]C(=O)C2=CC=CC=C2>>[H:20][CH:10](C1=CC=[N+](C=C1)C)C(=O)C2=CC=CC=C2.C1CC[NH:21]CC1 10=20;20,21=21",
"CC(C)CCC(=O)[O:21][H:20].CN1C2=C(CCCC2)O/C1=[N:10]\C>>CC(C)CCC(=O)[O-:21].CN1C2=C(CCCC2)O/C1=[N+:10](\C)[H:20] 10=20;20,21=21",
"C1=C(/C=N/[O:21][H:20])SN=N1.CC[N:10](CC)CCNc1cc(Nc2ccc(Cl)cc2)nc(C)n1>>C1=C(/C=N/[O-:21])SN=N1.CC[N+:10](CC)(CCNc1cc(Nc2ccc(Cl)cc2)nc(C)n1)[H:20] 10=20;20,21=21",
